US05753664
2-[2-[4-(4-Chlorobenzoyl)phenyl]vinyl]-3,5-dimethyl-4(3H)-quinazolinone
To a mixture of 2,3,5-trimethyl-4(3H)-quinazolinone (376 mg) and 4-(4-chlorobenzoyl)benzaldehyde (1.1 g) was added acetic anhydride (0.5 ml) and the mixture was stirred at 140° C. for 2 hours. This reaction mixture was concentrated and the residue was washed with diethyl ether and dried to provide 504 mg of yellow powder.

reactant | 2,3,5-trimethyl-4(3H)-quinazolinone | 376 mg | CC1=NC2=CC=CC(=C2C(N1C)=O)C | C11H12N2O
reactant | 4-(4-chlorobenzoyl)benzaldehyde | 1.1 g | ClC1=CC=C(C(=O)C2=CC=C(C=O)C=C2)C=C1 | C14H9ClO2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[2-[4-(4-Chlorobenzoyl)phenyl]vinyl]-3,5-dimethyl-4(3H)-quinazolinone | 504 mg | ClC1=CC=C(C(=O)C2=CC=C(C=C2)C=CC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C25H19ClN2O2
